US08222286B2
(S)-2-[(S)-2-(3′-chloro-biphenyl-4-yl)-1-(1H-tetrazol-5-ylcarbamoyl)-ethoxy]-propionic acid ethyl ester
To a solution of (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethoxy)-propionic acid (62 mg, 0.165 mmol) in THF (5 ml) at room temperature was added 5-aminotetrazole (38.0 mg, 0.447 mmol), DIPEA (0.086 ml, 0.494 mmol) and followed by 1,3-diisopropylcarbodiimide (0.060 ml, 0.387 mmol). The reaction was stirred at room temperature for 3 hr. The reaction was quenched by brine and was extracted with EtOAc. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate, filtered and concentrated. HPLC retention time=0.99 minutes (condition C); MS (m+1)=444.

reactant | (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethoxy)-propionic acid | 0.165 mmol, 62 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C(=O)O)O[C@@H](C)C(=O)OCC | C20H21ClO5
reactant | 5-aminotetrazole | 0.447 mmol, 38.0 mg | NC1=NN=NN1 | CH3N5
reactant | DIPEA | 0.494 mmol, 0.086 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,3-diisopropylcarbodiimide | 0.387 mmol, 0.060 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (S)-2-[(S)-2-(3′-chloro-biphenyl-4-yl)-1-(1H-tetrazol-5-ylcarbamoyl)-ethoxy]-propionic acid ethyl ester | C(C)OC([C@H](C)O[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)C(NC1=NN=NN1)=O)=O | C21H22ClN5O4
